US06900215B2
2-(5-Bromo-2-fluorophenyl)pyrazine was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine by the method of Example 32. Purification by chromatography on silica gel eluting with dichloromethane containing 4% methanol followed by crystallisation from hot toluene gave 3-[4-fluoro-3-(pyrazin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine: δH (400 MHz, DMSO) 9.31 (1H, d, J 7), 9.14 (1H, m), 8.85 (1H, dd, J 2 and 1.5), 8.73 (1H, d, J 2), 8.32 (1H, s), 8.27 (1H, dd, J 7 and 2), 7.96 (1H, m), 7.68 (1H, dd, J 11 and 9), 7.54 (1H, d, J 7); m/z (ES+) 360 (M++H).

reactant | 2-(5-Bromo-2-fluorophenyl)pyrazine | BrC=1C=CC(=C(C1)C1=NC=CN=C1)F | C10H6BrFN2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[4-fluoro-3-(pyrazin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=NC=CN=C2 | C17H9F4N5
